US06797344B2
In a 500 ml 2-necked bottle equipped with a condenser tube, butanone (200 ml), and then 2,4-dinitrofluorobenzene (18.61 g, 0.100 mol), hydroquinone (11.33 g, 0.100 mol), and potassium carbonate (15.28 g, 0.110 mol) were introduced. The mixture were agitated at room temperature for 2 hours. Then, potassium carbonate (15.27 g, 0.110 mol), dodecane bromide (15.26 g, 0.110 mol), and butanone (20 ml) were added to the bottle. The mixture were stirred at room temperature for 6 hours. Thereafter, distilled water (300 ml) was added to the bottle, and the mixture was extracted by ethyl acetate (300 ml×3). The collected organic layers were dried by anhydrous sodium sulfate, filtered, and concentrated, and recrystallized by ethanol to obtain 1-[4-(2,4-dinitrophenoxy)phenoxy]dodecane (35.58 g, 0.080 mol). Yield: 80%. Spectrum: IR (KBr) 3121,3088, 2918, 2853, 1611, 1530, 1470, 1350, 1287, 1159, 1097, 1075 cm−1. 1H NMR (DMSO-d6, 300 MHz). δ8.84 (d, J=2.5 Hz, 1H), 8.40 (dd, J=2.5, J=9.3 Hz, 1H), 7.17 (d, J=8.9 Hz, 2H), 7.03 (t, J=9.9 Hz, 3H), 3.94 (t, J=6.4 Hz, 2H), 1.70 (quintet, J=6.8 Hz, 2H), 1.4˜1.2 (m, 18H), 0.83 (t, J=6.0, 3H) 13C NMR (DMSO-d6, 75 MHz) δ157.0, 156.1, 146.5, 141.0, 139.0, 129.6, 121.9, 118.3, 116.2, 68.2, 68.1, 31.5, 29.2, 29.0, 28.9, 25.7, 22.3, 14.0.

reactant | 2,4-dinitrofluorobenzene | 0.100 mol, 18.61 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | hydroquinone | 0.100 mol, 11.33 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 0.110 mol, 15.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.110 mol, 15.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | dodecane bromide | 0.110 mol, 15.26 g | [Br-].CCCCCCCCCCCC
solvent | butanone | 20 ml | CC(CC)=O | C4H8O
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 1-[4-(2,4-dinitrophenoxy)phenoxy]dodecane | 0.080 mol, 35.58 g, Yield: 80% | [N+](=O)([O-])C1=C(OC2=CC=C(OCCCCCCCCCCCC)C=C2)C=CC(=C1)[N+](=O)[O-] | C24H32N2O6
